US04442110
1-Methyl-N5 -[3-[3-(aminomethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
A solution of 2-[[3-[3-[(3-amino-1-methyl-1H-1,2,4-triazol-5-yl)amino]propoxy]phenyl]methyl]-1H-isoindole-1,3-(2H)-dione (1.62 g) and hydrazine hydrate (0.22 g) in ethanol (10 ml) was heated at reflux for 1.5 h. The solvent was evaporated and the residue was dissolved in dilute hydrochloric acid and filtered. The filtrate was basified with sodium carbonate, evaporated to dryness and extracted with hot isopropanol to give an oil which was purified by column chromatography using methanol/0.88 ammonia 79:1 as eluant to give the title compound as a crystalline solid (0.79 g) TLC silica, methanol/0.88 ammonia 79:1 Rf 0.5 NMR (d4MeOH) 2.77 t (1H); 3.0-3.3 m (3H); 5.95 t (2H); 6.30 s (2H); 6.57 q (2H); 6.65 s (3H); 7.95 m (2H).

reactant | 2-[[3-[3-[(3-amino-1-methyl-1H-1,2,4-triazol-5-yl)amino]propoxy]phenyl]methyl]-1H-isoindole-1,3-(2H)-dione | 1.62 g | NC1=NN(C(=N1)NCCCOC=1C=C(C=CC1)CN1C(C2=CC=CC=C2C1=O)=O)C | C21H22N6O3
reactant | hydrazine hydrate | 0.22 g | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-Methyl-N5 -[3-[3-(aminomethyl)phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.79 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN)N | C13H20N6O
